US07091222B2
Step 2: 4-(2-Cyclopropyl-1-isopropyl-1H-imidazol-4-ylethynyl)-2-methyl-pyridine
The title compound, MS: m/e=266.3 (M+H+), was prepared in accordance with the general method of example A, step 2 from 2-methyl-4-trimethylsilanylethynyl-pyridine and 2-cyclopropyl-4-iodo-1-isopropyl-1H-imidazole.

reactant | 2-methyl-4-trimethylsilanylethynyl-pyridine | CC1=NC=CC(=C1)C#C[Si](C)(C)C | C11H15NSi
reactant | 2-cyclopropyl-4-iodo-1-isopropyl-1H-imidazole | C1(CC1)C=1N(C=C(N1)I)C(C)C | C9H13IN2
product | 4-(2-Cyclopropyl-1-isopropyl-1H-imidazol-4-ylethynyl)-2-methyl-pyridine | C1(CC1)C=1N(C=C(N1)C#CC1=CC(=NC=C1)C)C(C)C | C17H19N3
